* source REX_ALPHA_REV_A
C_C16         N10904  1n  TC=0,0 
C_C2         N10580 N10524  1n  TC=0,0 
R_R5         N11160 N10928  1k TC=0,0 
C_C6         N10504 N10330  1n  TC=0,0 
C_C13         0 N10118  1n  TC=0,0 
R_R2         N10912 N10182  1k TC=0,0 
C_C1         N10620 0  1n  TC=0,0 
R_R7         N10090 0  1k TC=0,0 
C_C17         N10142 0  1n  TC=0,0 
C_C5         N10708 N10612  1n  TC=0,0 
C_C12         0 N10118  1n  TC=0,0 
C_C9         N10174 N10182  1n  TC=0,0 
V_V1         N10524 0  AC 0
+SIN 0 0.05 1k 0 0 0
R_R4         N10928 N10912  1k TC=0,0 
D_D1         N10524 N10238  
C_C10         N10912 N11160  1n  TC=0,0 
R_R6         N10142 N10090  1k TC=0,0 
C_C15         N10880  1n  TC=0,0 
C_C7         0 N10330  1n  TC=0,0 
C_C3         0 N10238  1n  TC=0,0 
C_C8         N11120 N10888  1n  TC=0,0 
R_R3         N10912 N10888  1k TC=0,0 
R_R1         N10238 N10094  1k TC=0,0 
C_C4         0 N10664  1n  TC=0,0 
C_C11         N10928 N11160  1n  TC=0,0 
C_C18         N10094 0  1n  TC=0,0 
C_C14         0 N10118  1n  TC=0,0 
