* source TIA_LMH669_1
R_R1         N00749 N00712  12k TC=0,0 
V_V1         N00712 0  AC 0
+SIN 0 0.05 1k 0 0 0
C_C1         N00749 N00712  0.6p  TC=0,0 
V_V2         N00652 0 5V
V_V3         N00881 0 5V
R_R2         0 N00749  50 TC=0,0 
R_R3         0 N00749  10k TC=0,0 
V_V4         N00877 0 5V
C_C2         N03110 N03122  4.7u  TC=0,0 
C_C3         N03234 0  0.1u  TC=0,0 
C_C4         N03230 0  0.1u  TC=0,0 
R_R4         N03110 N030590  10M TC=0,0 
V_V5         N03122 0  AC 0
+SIN 0 0.05 5k 0 0 0
V_5V         N030590 0 0Vdc
R_R5         0 N03230  10M TC=0,0 
R_R6         0 N03234  10M TC=0,0 
